US06133273
4,6-Dibutyl-1-(propane-1-sulfonyl)-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione
To 500 mg (2.6-2.8 mmol/g resin) of piperidinomethyl polystyrene resin in 25 mL CH2Cl2 was added 280 mg (1.06 mmol) of 4,6-dibutyl-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione followed by 166 mg (1.17 mmol) of propanesulfonyl chloride. The resulting solution was stirred at 23° C. for 3 h after which time TLC showed that all starting material (4/1 CH2Cl2 /EtOAc; Rf =0.15) had been consumed. The reaction mixture was filtered, the filtered cake washed with 3×5 mL CH2Cl2, and the combined organics were evaporated to give crude yellow oil. Flash chromatography on silica gel, eluting with CH2Cl2 /EtOAc (40/1 to 10/1) gave 359 mg (0.97 mmol, a 92% yield) of the title compound as a yellow solid. mp: 44-48° C.; 1H NMR (300 MHz, CDCl3); δ 0.93-1.17 (m, 9H), 1.35-1.44 (m, 4H), 1.61-1.83 (m, 4H), 2.06-2.33 (m, 2H), 3.51-3.68 (m, 2H), 3.85 (t, J=7.5 Hz, 2H), 4.02 (t, J=7.4 Hz, 2H), 7.88 (s, 1H); IR (KBr, cm-1): 3231w, 2960m, 1719m, 1675s, 1620m, 1387m, 1289m, 1171m, 1066m; MS (ES) m/z (relative intensity): 371 (M+ +H, 100). Anal. Calcd. for C16H26N4O4S: C, 51.87; H, 7.07, N, 15.12. Found: C, 46.22; H, 6.65; N, 11.91

reactant | 4,6-dibutyl-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione | 1.06 mmol, 280 mg | C(CCC)N1C(N(C(C2=C1C=NN2)=O)CCCC)=O | C13H20N4O2
reactant | propanesulfonyl chloride | 1.17 mmol, 166 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4,6-Dibutyl-1-(propane-1-sulfonyl)-1,4-dihydro-pyrazolo[4,3-d]pyrimidine-5,7-dione | 92% yield | C(CCC)N1C(N(C(C2=C1C=NN2S(=O)(=O)CCC)=O)CCCC)=O | C16H26N4O4S
